* eeschema netlist version 1.1 (spice format) creation date: friday 12 april 2013 05:47:09 pm ist
.include 1n4007.lib

v1  3 1 sine(0 5 50 0 0)
r1  4 0 1000
d3  0 3 1n4007
d4  0 1 1n4007
d2  1 4 1n4007
d1  3 4 1n4007

.tran  100e-06 40e-03 0e-00

* Control Statements 
.control
run
plot v(3)-v(1) v(4) 
.endc
.end
