* eeschema netlist version 1.1 (spice format) creation date: monday 10 december 2012 10:40:34 am ist
.include lm555n.sub

.ic v(3)=0

.ic v(4)=0
* Plotting option vplot8_1
v1  3 0 5
r3  5 0 1000
c2  2 0 0.01e-6
c1  4 0 100e-12
r2  6 4 10000
r1  3 6 1000
x1  0 4 5 3 2 4 6 3 lm555n

.tran  50e-09 5e-06 0e-00

* Control Statements 
.control
run
plot v(4) v(5) 
.endc
.end
